* R8002CND3 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2017/07/03
******************D G S
.SUBCKT R8002CND3 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 2.99
D2       22 11 DDG
R2        2 22 12.65
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=999.80E-9
+ RS=10.000E-3
+ RD=0
+ VTO=4.1398
+ RDS=8.0000E6
+ TOX=2.0000E-6
+ CGSO=190p
+ CGDO=3p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA={2.5*(1+tol2)}
+ ETA=0.00005
+ KAPPA=0
+ NFS=47G
.MODEL DDS D
+ IS=11.200E-12
+ N=1.1972
+ RS=6.2708E-3
+ IKF=.70356
+ CJO=917.60E-12
+ M=.61428
+ VJ=.7911
+ BV=800
+ TT=1.35u
.MODEL DDG D
+ CJO=195.79E-12
+ M=1.2651
+ VJ=1.94384
+ N={10000*(1+tol1)}
+ FC=0.04
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.009
+ TC2=0.0200E-3
.ENDS R8002CND3
